US06335341B1
A solution of 4-trifluoromethylphenylsulphonylchloride (367 mg) in methylene chloride (5 ml) was added dropwise over 5 minutes to a mixture of 4-[1-(2-methylpyrimidin-4-yl)-4-piperidylmethyl]piperazine trihydrochloride (625 mg) and triethylamine (1.04 ml) in dichloromethane (20 ml) at 0° C. The solution was stirred at ambient temperature for 18 hours. The solution was diluted with dichloromethane and washed with water, dried (Na2SO4) and evaporated. The residue was purified by chromatography eluting with 1-2% methanol in dichloromethane. Filtration from ether gave 1-(4-trifluoromethylphenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)-4-piperidyimethyl]piperazine (358 mg), as a solid, mp 135-136° C.

reactant | 4-trifluoromethylphenylsulphonylchloride | 367 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 4-[1-(2-methylpyrimidin-4-yl)-4-piperidylmethyl]piperazine trihydrochloride | 625 mg | Cl.Cl.Cl.CC1=NC=CC(=N1)N1CCC(CC1)CN1CCNCC1
reactant | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-trifluoromethylphenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)-4-piperidyimethyl]piperazine | 358 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)CC1CCN(CC1)C1=NC(=NC=C1)C)(F)F | C22H28F3N5O2S
